************************************************************************
* auCdl Netlist:
* 
* Library Name:  POR
* Top Cell Name: por2
* View Name:     schematic
* Netlisted on:  Jun 21 17:09:12 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.LDD
*.SCALE METER
.PARAM



************************************************************************
* Library Name: D_CELLS_3V
* Cell Name:    STE_3VX4
* View Name:    cmos_sch
************************************************************************

.SUBCKT STE_3VX4 A Q inh_ground_gnd inh_power_vdd3
*.PININFO A:I Q:O inh_ground_gnd:B inh_power_vdd3:B
MM0 net39 A inh_ground_gnd inh_ground_gnd NE3 W=650.0n L=350.0n M=1.0 
+ AD=3.12e-13 AS=3.12e-13 PD=2.26e-06 PS=2.26e-06 NRD=0.415385 NRS=0.415385
MM5 inh_power_vdd3 net31 net39 inh_ground_gnd NE3 W=890.0n L=350.0n M=1.0 
+ AD=4.272e-13 AS=4.272e-13 PD=2.74e-06 PS=2.74e-06 NRD=0.303371 NRS=0.303371
MM1 net31 A net39 inh_ground_gnd NE3 W=760.0n L=350.0n M=1.0 AD=3.648e-13 
+ AS=3.648e-13 PD=2.48e-06 PS=2.48e-06 NRD=0.355263 NRS=0.355263
MM7 Q net31 inh_ground_gnd inh_ground_gnd NE3 W=2.64u L=350.0n M=1.0 
+ AD=1.2672e-12 AS=1.2672e-12 PD=6.24e-06 PS=6.24e-06 NRD=0.102273 NRS=0.102273
MM3 net14 A inh_power_vdd3 inh_power_vdd3 PE3 W=1.35u L=300n M=1.0 AD=6.48e-13 
+ AS=6.48e-13 PD=3.66e-06 PS=3.66e-06 NRD=0.2 NRS=0.2
MM4 inh_ground_gnd net31 net14 inh_power_vdd3 PE3 W=1.41u L=350.0n M=1.0 
+ AD=6.768e-13 AS=6.768e-13 PD=3.78e-06 PS=3.78e-06 NRD=0.191489 NRS=0.191489
MM2 net31 A net14 inh_power_vdd3 PE3 W=1.41u L=300n M=1.0 AD=6.768e-13 
+ AS=6.768e-13 PD=3.78e-06 PS=3.78e-06 NRD=0.191489 NRS=0.191489
MM6 Q net31 inh_power_vdd3 inh_power_vdd3 PE3 W=5.64u L=300n M=1.0 
+ AD=2.7072e-12 AS=2.7072e-12 PD=1.224e-05 PS=1.224e-05 NRD=0.0478723 
+ NRS=0.0478723
.ENDS

************************************************************************
* Library Name: POR
* Cell Name:    por2
* View Name:    schematic
************************************************************************

.SUBCKT por2 BG_REF BIAS GNDA POR_OUT_L VDDA
*.PININFO BG_REF:B BIAS:B GNDA:B POR_OUT_L:B VDDA:B
XC0 DEL GNDA GNDA / mosvc3 W=50u L=50u M=10.0 par1=10.0
MM21 VDDA VDDA VDDA VDDA PE3 W=10u L=5u M=8.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM15 A C net9 VDDA PE3 W=4u L=500n M=1.0 AD=1.92e-12 AS=1.92e-12 PD=8.96e-06 
+ PS=8.96e-06 NRD=0.0675 NRS=0.0675
MM13 net10 BG_REF net9 VDDA PE3 W=4u L=500n M=1.0 AD=1.92e-12 AS=1.92e-12 
+ PD=8.96e-06 PS=8.96e-06 NRD=0.0675 NRS=0.0675
MM12 net9 net1 VDDA VDDA PE3 W=10u L=5u M=10.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM1 DEL net1 VDDA VDDA PE3 W=10u L=5u M=2.0 AD=4.8e-12 AS=4.8e-12 PD=2.096e-05 
+ PS=2.096e-05 NRD=0.027 NRS=0.027
MM14 net1 net1 VDDA VDDA PE3 W=10u L=5u M=10.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM17 net10 net10 GNDA GNDA NE3 W=5u L=5u M=1.0 AD=2.4e-12 AS=2.4e-12 
+ PD=1.096e-05 PS=1.096e-05 NRD=0.054 NRS=0.054
MM20 GNDA GNDA GNDA GNDA NE3 W=10u L=5u M=5.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM16 A net10 GNDA GNDA NE3 W=5u L=5u M=1.0 AD=2.4e-12 AS=2.4e-12 PD=1.096e-05 
+ PS=1.096e-05 NRD=0.054 NRS=0.054
MM18 net1 BIAS GNDA GNDA NE3 W=10u L=5u M=1.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM19 BIAS BIAS GNDA GNDA NE3 W=10u L=5u M=10.0 AD=4.8e-12 AS=4.8e-12 
+ PD=2.096e-05 PS=2.096e-05 NRD=0.027 NRS=0.027
MM7 DEL A GNDA GNDA NE3 W=5u L=350.0n M=2.0 AD=1.35e-12 AS=2.4e-12 PD=5.54e-06 
+ PS=1.096e-05 NRD=0.054 NRS=0.054
XI0 DEL POR_OUT_L GNDA VDDA / STE_3VX4
RR2 C GNDA 690009 $SUB=GNDA $[RPP1K1_3] $W=4u $L=2.83888m M=1
RR1 VDDA C 1e+06 $SUB=GNDA $[RPP1K1_3] $W=4u $L=4.11438m M=1
.ENDS


.SUBCKT mosvc3 G NW SB 
*.PININFO  G:B NW:B SB:B
.ENDS
